US05389669
Preparation of 4-Cyanopyrrole-2-carboxamide
A solution of 2-trichloroacetylpyrrole-4-carbonitrile (20 g, 84.2 mmol) in methanol is treated with ammonia (51 mL), stirred at room temperature for 30 minutes and diluted with water. The aqueous mixture is filtered to obtain the title product as a white solid (7.0 g, mp 253°-256° C.).

reactant | 2-trichloroacetylpyrrole-4-carbonitrile | 84.2 mmol, 20 g | ClC(C(=O)C=1NC=C(C1)C#N)(Cl)Cl | C7H3Cl3N2O
reactant | ammonia | 51 mL | N | H3N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-Cyanopyrrole-2-carboxamide | 7.0 g | C(#N)C=1C=C(NC1)C(=O)N | C6H5N3O
